US05554630
4-Nitro-1-(3-nitrophenyl)benzimidazole was prepared analogueously to 3 g from 4-nitrobenzimidazole and 1-fluoro-3-nitrobenzene. Mp 260°-262° C.

reactant | 4-nitrobenzimidazole | [N+](=O)([O-])C1=CC=CC=2N=CNC21 | C7H5N3O2
reactant | 1-fluoro-3-nitrobenzene | FC1=CC(=CC=C1)[N+](=O)[O-] | C6H4FNO2
product | 4-Nitro-1-(3-nitrophenyl)benzimidazole | [N+](=O)([O-])C1=CC=CC=2N(C=NC21)C2=CC(=CC=C2)[N+](=O)[O-] | C13H8N4O4
